US07968573B2
A solution of 2.9 g of potassium permanganate in 15 ml of water was added dropwise to a mixture of 2.86 g of 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde and 30 ml of acetone while the mixture was maintained at 40° C. The mixture was stirred at 40° C. for 2 hours. A precipitate was filtered off to obtain a filtrate. The filtrate was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution, and then washed with chloroform two times. The aqueous layer was adjusted to around pH 3 by an addition of 2N hydrochloric acid. A deposited precipitate was collected by filtration to obtain 2.08 g of 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carboxylic acid of the formula:

reactant | potassium permanganate | 2.9 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 2.86 g | BrC=1C=C(N(C1)C1=C(C=NC=C1Cl)Cl)C=O | C10H5BrCl2N2O
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carboxylic acid | 2.08 g | BrC=1C=C(N(C1)C1=C(C=NC=C1Cl)Cl)C(=O)O | C10H5BrCl2N2O2
